US06495712B2
Production of phenyl acetate
In a 500 mL four-necked flask equipped with a thermometer, stirrer and reflux condenser there were charged 310 g (1.0 mole) of triphenyl phosphite, 60 g (1.0 mole) of acetic acid and 18 g (1.0 mole) of water, and the mixture was heated while stirring for one hour of reaction at 140-150° C. The reaction solution was analyzed by liquid chromatography and found to have an esterification rate of 97%.

reactant | triphenyl phosphite | 1.0 mole, 310 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | acetic acid | 1.0 mole, 60 g | C(C)(=O)O | C2H4O2
reactant | water | 1.0 mole, 18 g | O | H2O
product | phenyl acetate | C(C)(=O)OC1=CC=CC=C1 | C8H8O2
